US09108966B2
A mixture of (2S,5R)-6-(benzyloxy)-2-(isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (196 mg, 0.656 mmol) and 10% Pd/C (80 mg) in THF (20 mL) was stirred at rt for 1.5 h under H2. The reaction mixture was then filtered and concentrated. The residue was washed with Et2O (3×) and dried under high vacuum to afford (2S,5R)-6-hydroxy-2-(isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (130 mg, 98%), which was in the next step directly. ESI-MS (EI+, m/z): 210 [M+H]+.

reactant | (2S,5R)-6-(benzyloxy)-2-(isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 0.656 mmol, 196 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NOC=C2 | C16H17N3O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | (2S,5R)-6-hydroxy-2-(isoxazol-3-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 130 mg, 98% | ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NOC=C2 | C9H11N3O3
